US04012391
A solution of 28.4 parts of 2,3,5,6,7,8hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile in 500 parts by volume of 48% hydrobromic acid is heated at the reflux temperature in the absence of light for about 7 hours, following which time the solvent is removed by distillation under reduced pressure. The resulting residue is partitioned between chloroform and aqueous sodium chloride and the layers are separated. The aqueous phase is extracted several times with chloroform, then combined with the original chloroform layer. That organic solution is washed with aqueous sodium chloride, then dried over anhydrous sodium sulfate and stripped of solvent under reduced pressure to afford the crude product. The original aqueous layer is neutralized by the addition of sodium bicarbonate, then is extracted with chloroform. Evaporation of that chloroform extract to dryness affords additional product. The combined crude product is purified by recrystallization from aqueous acetone, thus affording pure 2,3,5,6,7,8-hexahydro-3,8isoquinolinedione, melting at about 246°-248° with decomposition. Ultraviolet absorption maxima are observed in methanol at 279 and 221 mμ with molecular extinction coefficients of about 16,700 and 13,500, respectively. In deuteropyridine, nuclear magnetic resonance peaks are displayed at about 1.96, 2.57, 2.92, 5.50 and 8.71 parts per million.

reactant | 2,3,5,6,7,8hexahydro-3,8-dioxo-4-isoquinolinecarbonitrile | O=C1NC=C2C(CCCC2=C1C#N)=O | C10H8N2O2
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2,3,5,6,7,8-hexahydro-3,8isoquinolinedione | C=1NC(C=C2CCCC(C12)=O)=O | C9H9NO2
